US07994336B2
b) Synthesis of 6-trifluoromethyl-imidazo[2,1-b]thiazole-5-carboxylic acid
A solution of sodium chlorite 418.986 mg (4.633 mmol) and sodium dihydrogen phosphate dihydrate 553.971 mg (3.551 mmol) in water 3.94 mL (218.895 mmol) was added dropwise to a solution of 6-trifluoromethyl-imidazo[2,1-b]thiazole-5-carbaldehyde 119 mg (0.54 mmol) in t-BuOH (3.94 mL). The mixture was stirred for 2 h30 at RT. The mixture was then concentrated in vacuo to remove t-BuOH, a white precipitate was formed and filtered to give the title compound as a white solid (70 mg, 55%).

reactant | sodium chlorite | 4.633 mmol, 418.986 mg | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate dihydrate | 3.551 mmol, 553.971 mg | O.O.P(=O)(O)(O)[O-].[Na+]
reactant | water | 218.895 mmol, 3.94 mL | O | H2O
reactant | 6-trifluoromethyl-imidazo[2,1-b]thiazole-5-carbaldehyde | 0.54 mmol, 119 mg | FC(C=1N=C2SC=CN2C1C=O)(F)F | C7H3F3N2OS
solvent | t-BuOH | 3.94 mL | CC(C)(C)O | C4H10O
product | 6-trifluoromethyl-imidazo[2,1-b]thiazole-5-carboxylic acid | 70 mg, 55% | FC(C=1N=C2SC=CN2C1C(=O)O)(F)F | C7H3F3N2O2S
